US05990156
(4S,5R,6R)-4-Amino-6-(dipropylcarbamoyl)-5-(2,2,2-trifluoroacetylamino)-5,6-dihydro-4H-pyran-2-carboxylic acid
To a solution of (4S,5R,6R)-5-amino-4-azido-6-(dipropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid, methyl ester (2 g) in anhydrous pyridine (10 ml) at 0° C. was added trifluoroacetic anhydride (1.28 ml). The reaction was allowed to warm to 23° C., stirred for 2 hours and then diluted with ethyl acetate (30 ml). The solution was washed with dilute hydrochloric acid (20 ml), saturated sodium bicarbonate solution (20 ml) and brine (20 ml). The organic phase was dried over anhydrous magnesium sulphate, the solvent removed in vacuo and the residue was chromatographed over silica (Merck 9385, 50 g) using medium pressure (ca 4 psi) and cyclohexane/ethyl acetate (2:1 v/v) as the eluant. The required fractions were combined and the solvent removed in vacuo to give the title compound as a white solid (2.33 g). 1H NMR (250 MHz, D6 -DMSO) 9.75 (1H, d, J=6 Hz), 5.95 (1H, d, J=3 Hz), 5.05 (1H, d, J=9 Hz), 4.55 (1H, dd, J=3, 9 Hz), 4.25 (1H, m), 3.75 (3H, s), 3.45 (2H, m), 3.20 (1H, m), 2.95(1H, m), 1.55 (2H, m), 1.45 (2H, m), 0.85 (6H, m). Mass analysis: C16H22F3N5O5. Required: C, 45.61; H, 5.26; N, 16.62. Found: C, 45.67; H, 5.22; N, 16.42.

reactant | (4S,5R,6R)-5-amino-4-azido-6-(dipropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid, methyl ester | 2 g | N[C@@H]1[C@H](C=C(O[C@H]1C(N(CCC)CCC)=O)C(=O)OC)N=[N+]=[N-] | C14H23N5O4
reactant | trifluoroacetic anhydride | 1.28 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (4S,5R,6R)-4-Amino-6-(dipropylcarbamoyl)-5-(2,2,2-trifluoroacetylamino)-5,6-dihydro-4H-pyran-2-carboxylic acid | 2.33 g | N[C@H]1C=C(O[C@H]([C@@H]1NC(C(F)(F)F)=O)C(N(CCC)CCC)=O)C(=O)O | C15H22F3N3O5
